US04461773
Hydroxylamine hydrochloride (5 g) was added to a solution of 5 g 5-hydroxymethyl-3-(4-acetylphenyl)-2-oxazolidinone in 40 ml of 1:1 pyridine/ethanol. The mixture was stirred at reflux under nitrogen for 4 hours. After cooling to room temperature, the mixture was evaporated and the residue was triturated with water and dilute aqueous hydrochloric acid and collected. Recrystallization from aqueous ethanol gave 4.61 g pure 5-hydroxymethyl-3-[4-(1-hydroxyiminoethyl)phenyl]-2-oxazolidinone, m.p. 189.5°-190° C.

reactant | Hydroxylamine hydrochloride | 5 g | Cl.NO
reactant | 5-hydroxymethyl-3-(4-acetylphenyl)-2-oxazolidinone | 5 g | OCC1CN(C(O1)=O)C1=CC=C(C=C1)C(C)=O | C12H13NO4
solvent | pyridine ethanol | 40 ml | N1=CC=CC=C1.C(C)O
product | 5-hydroxymethyl-3-[4-(1-hydroxyiminoethyl)phenyl]-2-oxazolidinone | 4.61 g | OCC1CN(C(O1)=O)C1=CC=C(C=C1)C(C)=NO | C12H14N2O4
